US05935950
EXAMPLE 12 (6R,7R)-7-[(Z)-2-(5-Amino-[1,2,4]thiadiazol-3-yl)-2-cyclopentyloxyimino-acetylamino]-3-[(E)-1-[1-[(3-fluoro-4-hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate
A solution of (Z)-(5-amino-[1,2,4]thiadiazol-3-yl)-cyclopentyloxyimino-acetate 1-allyl-1-methyl-pyrrolidinium salt in 10 ml DMF was treated with HBTU (170 mg, 0.45 mmol) for 1.5 h at room temperature. (E)-(6R,7R)-7-Amino-3-[1-[1-[(3-fluoro-4-hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate trifluoroacetic acid salt (300 mg, 0.45 mmol) was added and the mixture was stirred for 78 h before it was concentrated in vacuo. The residue was dissolved in ethylacetate and extracted with water. The organic phase was evaporated and the residue triturated with diethylether. The product was purified by gel chromatography (MCI-gel, using a gradient of water with increasing concentrations of acetonitrile). Yield: 40 mg (11%).

reactant | (Z)-(5-amino-[1,2,4]thiadiazol-3-yl)-cyclopentyloxyimino-acetate 1-allyl-1-methyl-pyrrolidinium | C(C=C)[N+]1(CCCC1)C.NC1=NC(=NS1)/C(/C(=O)[O-])=N/OC1CCCC1
reactant | HBTU | 0.45 mmol, 170 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (E)-(6R,7R)-7-Amino-3-[1-[1-[(3-fluoro-4-hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate trifluoroacetic acid | 0.45 mmol, 300 mg | FC(C(=O)O)(F)F.N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)[O-])/C=C\1/C(N(CC1)CC1=CC=[N+](C=C1)CC(NC1=CC(=C(C=C1)O)F)=O)=O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (6R,7R)-7-[(Z)-2-(5-Amino-[1,2,4]thiadiazol-3-yl)-2-cyclopentyloxyimino-acetylamino]-3-[(E)-1-[1-[(3-fluoro-4-hydroxy-phenylcarbamoyl)-methyl]-pyridin-1-ium-4-ylmethyl]-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylate | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)[O-])/C=C\1/C(N(CC1)CC1=CC=[N+](C=C1)CC(NC1=CC(=C(C=C1)O)F)=O)=O)=N/OC1CCCC1 | C35H34FN9O8S2
